US07423050B2
8. 2,4,6-Trifluoro-N-[6-(1-methyl-piperidin-4-ylcarbonyl)-pyridin-2-yl]-benzamide mono-hydrochloride salt
Combine 2-amino-6-(1-methylpiperidin-4-ylcarbonyl)pyridine (0.20 g, 0.92 mmol), 2,4,6-Trifluorobenzoyl chloride (0.357 g, 1.84 mmol), and 1,4-Dioxane (10 mL), and stir while heating at reflux. After 3 hr., cool the reaction mixture to ambient temperature and concentrate. Load the concentrated mixture onto an SCX column (10 g), wash with methanol, and elute with 2M ammonia in methanol. Concentrate the eluent to obtain the free base of the title compound as an oil (0.365 g (>100%)). Dissolve the oil in methanol (5 mL) and treat with ammonium chloride (0.05 g, 0.92 mmol). Concentrate the mixture and dry under vacuum to obtain the title compound. HRMS Obs. m/z 378.1435, Calc. m/z 378.1429; m.p. 255° C. (dec).

reactant | 2-amino-6-(1-methylpiperidin-4-ylcarbonyl)pyridine | 0.92 mmol, 0.20 g | NC1=NC(=CC=C1)C(=O)C1CCN(CC1)C | C12H17N3O
reactant | 2,4,6-Trifluorobenzoyl chloride | 1.84 mmol, 0.357 g | FC1=C(C(=O)Cl)C(=CC(=C1)F)F | C7H2ClF3O
solvent | 1,4-Dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 2,4,6-Trifluoro-N-[6-(1-methyl-piperidin-4-ylcarbonyl)-pyridin-2-yl]-benzamide mono-hydrochloride salt | 0.365 g, >100% | Cl.FC1=C(C(=O)NC2=NC(=CC=C2)C(=O)C2CCN(CC2)C)C(=CC(=C1)F)F | InChI=1S/C19H18F3N3O2.ClH/c1-25-7-5-11(6-8-25)18(26)15-3-2-4-16(23-15)24-19(27)17-13(21)9-12(20)10-14(17)22;/h2-4,9-11H,5-8H2,1H3,(H,23,24,27);1H
